US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide
2-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester was reduced with LAH to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 24.7, 24.8, 35.5, 42.8, 53.2, 59.5, 70.1, 102.5, 102.8, 103.0, 105.6, 112.3, 112.4, 112.5, 112.6, 131.8, 137.1, 138.6, 138.7, 161.8, 161.9, 164.3, 164.4, 169.4, 169.8; MS 409.2 m/z (M+1).

reactant | 2-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C21H26F2N4O4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-yl]-amide | OCC(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H26F2N4O3
